US07781426B2
A suspension of 10% palladium on carbon (2.0 mg) in a solution of ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropenylpyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate (19.0 mg, 0.0284 mmol) in EtOAc (5 mL) was stirred under H2 (double balloon pressure) for 4 h. The reaction mixture was filtered through a plug of Celite and the filtrate was concentrated in vacuo to afford ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropylpyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate as a colorless oil. LCMS calc.=672.3; found=672.3 (M+1)+. 1H NMR (600 MHz, CDCl3): δ 7.87 (s, 1 H); 7.78 (s, 2 H); 7.36 (d, J=7.6 Hz, 1 H); 7.03 (d, J=7.8 Hz, 1 H); 5.77 (d, J=8.2 Hz, 1 H); 4.95 (d, J=16.6 Hz, 1 H); 4.41-4.35 (m, 2 H); 4.08 (q, J—7.1 Hz, 2 H); 3.01 (s, 1 H); 2.90 (s, 2 H); 2.79-2.71 (m, 2 H); 2.12 (d, J=6.5 Hz, 2 H); 1.84-1.65 (m, 5H); 1.30-1.20 (m, 10 H); 0.98-0.86 (m, 7 H); 0.71 (d, J=6.3 Hz, 3 H).

reactant | ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropenylpyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate | 0.0284 mmol, 19.0 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1N(CC)C[C@@H]1CC[C@H](CC1)CC(=O)OCC)C(=C)C)C)(F)F | C34H41F6N3O4
catalyst | palladium on carbon | 2.0 mg | [Pd] | Pd
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-6-isopropylpyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1N(CC)C[C@@H]1CC[C@H](CC1)CC(=O)OCC)C(C)C)C)(F)F | C34H43F6N3O4
